US06043242
a) 2-Chloromethyl-4-(3-chloropropoxy)-3-methyl-pyridine
A solution of 2.3 ml (31.7 mmol) of thionyl chloride in 5 ml of dichloromethane is added dropwise at 0° C. to a solution of 2.5 g (12.6 mmol) of 3-(2-hydroxymethyl-3-methylpyridin-4-yloxy)propan-1-ol in 20 ml of dichloromethane and the mixture is subsequently stirred at room temperature for a further 16 h. Water (20 ml) is then added, and the mixture is adjusted to pH 8 using sodium bicarbonate solution and extracted with 3×20 ml of dichloromethane. The organic extracts are washed with water, dried over magnesium sulfate and concentrated. The residual oil (2.8 g) is employed in stage b) without further purification.

reactant | thionyl chloride | 31.7 mmol, 2.3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(2-hydroxymethyl-3-methylpyridin-4-yloxy)propan-1-ol | 12.6 mmol, 2.5 g | OCC1=NC=CC(=C1C)OCCCO | C10H15NO3
reactant | Water | 20 ml | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-Chloromethyl-4-(3-chloropropoxy)-3-methyl-pyridine | ClCC1=NC=CC(=C1C)OCCCCl | C10H13Cl2NO
